US06426345B1
To a mixture of 4-[3-(4-aminophenyl)phenyl]-2-benzyl-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (94 mg) and triethylamine (0.04 ml) in dichloromethane (3 ml) was added methanesulfonyl chloride (0.04 ml). The mixture was stirred at room temperature for 30 minutes, then poured into a mixture of ethyl acetate and aqueous sodium bicarbonate. The organic phase was separated, washed with aqueous sodium bicarbonate and brine, dried over magnesium sulfate and concentrated. The residue was chromatographed on silica gel column (35% ethyl acetate in hexane) and crystallized from ethanol to give 2-benzyl-4-[3-(4-methylsulfonylaminophenyl)phenyl]-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (53 mg).

reactant | 4-[3-(4-aminophenyl)phenyl]-2-benzyl-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 94 mg | NC1=CC=C(C=C1)C=1C=C(C=CC1)N1C2=C(N=C(C1=O)CC1=CC=CC=C1)C=CC=N2 | C26H20N4O
reactant | triethylamine | 0.04 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.04 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-benzyl-4-[3-(4-methylsulfonylaminophenyl)phenyl]-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 53 mg | C(C1=CC=CC=C1)C1=NC2=C(N(C1=O)C1=CC(=CC=C1)C1=CC=C(C=C1)NS(=O)(=O)C)N=CC=C2 | C27H22N4O3S
